US05024990
A. Synthesis of 2-phenyl-1,1,3-tricyano-propene (intermediate for Compound 1)
A mixture of benzoylacetonitrile (9.94 g, 0.0685 mole), malononitrile (11.3 g, 0.17 mole), ammonium acetate (5.4 g, 0.07 mole) and ethanol (100 mL) was heated at reflux for 1.5 hours. After cooling to room temperature, the reaction mixture was diluted with water (50 mL) and concentrated hydrochloric acid (7.5 mL) was added dropwise over 5 minutes. The resulting precipitate was collected by filtration and washed with water and ligroin. The yield was 10.0 g (76%), m.p. 92°-98° C.

reactant | benzoylacetonitrile | 0.0685 mole, 9.94 g | C(C1=CC=CC=C1)(=O)CC#N | C9H7NO
reactant | malononitrile | 0.17 mole, 11.3 g | C(CC#N)#N | C3H2N2
reactant | ammonium acetate | 0.07 mole, 5.4 g | C(C)(=O)[O-].[NH4+]
reactant | ethanol | 100 mL | C(C)O | C2H6O
solvent | water | 50 mL | O | H2O
solvent | hydrochloric acid | 7.5 mL | Cl | ClH
product | 2-phenyl-1,1,3-tricyano-propene | C1(=CC=CC=C1)C(=C(C#N)C#N)CC#N | C12H7N3
